US07772231B2
N-((3-chloropyrazin-2-yl)methyl)-3-methylenecyclobutanecarboxamide
EDCI (13.47 g, 70 mmol), DMAP (1.19 g, 9.8 mmol) and EXAMPLE 283A (12.5 g, 58 mmol) in CH2Cl2 (300 mL) were treated with ethyldiisopropyl amine (20 mL, 170 mmol) and 3-methylene-cyclobutanecarboxylic acid (Caserio et al. J. Am. Chem. Soc. 1958, 80, 5507)(6.59 g, 59 mmol). After 8 h at ambient temperature, an additional 2.88 g of EDCI was added, and the mixture stirred at ambient temperature for 16 h. The mixture was concentrated by rotary evaporator, diluted with EtOAc (600 mL), then washed sequentially with water (2×), aqueous NaHCO3 (2×) and brine (2×) and dried (Na2SO4). Solvent removal gave a red-brown oil which was purified by column chromatography on silica gel, eluting with 0-70% EtOAc/hexanes to provide 6.55 g of product.

reactant | EDCI | 70 mmol, 13.47 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | ethyldiisopropyl amine | 170 mmol, 20 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-methylene-cyclobutanecarboxylic acid | 59 mmol, 6.59 g | C=C1CC(C1)C(=O)O | C6H8O2
reactant | EDCI | 2.88 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 9.8 mmol, 1.19 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-((3-chloropyrazin-2-yl)methyl)-3-methylenecyclobutanecarboxamide | 6.55 g | ClC=1C(=NC=CN1)CNC(=O)C1CC(C1)=C | C11H12ClN3O
